US03958006
4-Formamido-5,6,7,8-tetrahydro-1-naphthol was dissolved in anhydrous acetone and allowed to react with an excess of methyl isocyanate in a pressure bottle at room temperature for 2 days. Triethylamine was used as a catalyst. The solvent was stripped from the product under reduced pressure and the solid residue washed thoroughly with isopropyl ether. There was obtained 4-formamido-5,6,7,8-tetrahydro-1-naphthyl N-methylcarbamate, m.p. 165°-166°, in 87% yield.

reactant | 4-Formamido-5,6,7,8-tetrahydro-1-naphthol | C(=O)NC1=CC=C(C=2CCCCC12)O | C11H13NO2
reactant | methyl isocyanate | CN=C=O | C2H3NO
solvent | acetone | CC(=O)C | C3H6O
catalyst | Triethylamine | C(C)N(CC)CC | C6H15N
product | 4-formamido-5,6,7,8-tetrahydro-1-naphthyl N-methylcarbamate | 87% yield | CNC(OC1=CC=C(C=2CCCCC12)NC=O)=O | C13H16N2O3
